US08445501B2
trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-cyclopropylcarbamoyl-cyclohexyl)-amide
Starting from 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A68) and trans-(4-cyclopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester (A195) the title compound is obtained as colorless solid.

reactant | 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CCC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C19H17N3O5
reactant | trans-(4-cyclopropylcarbamoyl-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(NC1CC1)=O)=O | C15H26N2O3
product | trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-cyclopropylcarbamoyl-cyclohexyl)-amide | C1(CC1)NC(=O)[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1 | C29H33N5O5
